US05882628
c. 3-Nitro-5-(1,2-dihydroxyethyl)benzoic acid methyl ester
3-Nitro-5-vinylbenzoic acid methyl ester (2.02 g, 9.76 mmol) was dissolved in a mixture of acetone and water (200 ml, 9:1), and, after cooling to 0° C., OsO4 (60 mg, 0.24 mmol) was added followed by N-methylmorpholine-N-oxide (2.34 g, 20.0 mmol). After stirring for 46 h at room temperature, an aqueous solution of Na2S2O5 (3.7 g) in water (150 ml) was added and the solution was acidified with dilute aqueous HCl. The volume of the solution was reduced to 150 ml by evaporation and the residue was extracted with ethyl acetate (3×100 ml). The combined organic phases were evaporated and the residue was purified by column chromatography on silica gel using ethyl acetate as the eluent. Yield: 1.60 g (60%).

reactant | 3-Nitro-5-vinylbenzoic acid methyl ester | 9.76 mmol, 2.02 g | COC(C1=CC(=CC(=C1)C=C)[N+](=O)[O-])=O | C10H9NO4
reactant | N-methylmorpholine-N-oxide | 20.0 mmol, 2.34 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | HCl | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
solvent | water | 150 ml | O | H2O
catalyst | OsO4 | 0.24 mmol, 60 mg | O=[Os](=O)(=O)=O
product | 3-Nitro-5-(1,2-dihydroxyethyl)benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C(CO)O)[N+](=O)[O-])=O | C10H11NO6
